US07365070B2
To a solution of 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzoic acid (0.81 g, 2.3 mol, 1 equiv) in THF (13 mL) was added thionyl chloride (0.84 mL, 11.5 mmol, 5 equiv). The solution was heated to reflux. After one hour, the solution was cooled to room temperature and concentrated to give 2-[2-(5-bromo-2-methoxy-phenyl)-ethyl]-3-fluoro-benzoyl chloride as an oil, which was used without further purification.

reactant | 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzoic acid | 2.3 mol, 0.81 g, 1 equiv | BrC=1C=CC(=C(C1)CCC1=C(C(=O)O)C=CC=C1F)OC | C16H14BrFO3
reactant | thionyl chloride | 11.5 mmol, 0.84 mL, 5 equiv | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 2-[2-(5-bromo-2-methoxy-phenyl)-ethyl]-3-fluoro-benzoyl chloride | BrC=1C=CC(=C(C1)CCC1=C(C(=O)Cl)C=CC=C1F)OC | C16H13BrClFO2
